US07220862B2
(R)-2-Benzyloxycarbonylamino-3-(2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester
A methylene chloride (15 mL) solution of carbonyl diimidazole (498 mg, 3.07 mmol) was added at 0° C. to a solution of (R)-3-(4-amino-3-hydroxy-phenyl)-2-benzyloxycarbonylamino-propionic acid methyl ester (1.17 g, 3.07 mmol), diisopropylethylamine (1.60 mL, 9.21 mmol), and methylene chloride (85 mL). The mixture was stirred at 0° C. for 4 h. The solvents were removed in vacuo and the residue was purified by silica gel chromatography using ethyl acetate/hexanes as eluent to afford the title compound as a white solid (51%). 1H-NMR (CDCl3, 500 MHz) δ 9.07 (s, 1H), 7.37–7.29 (m, 5H), 6.96 (s, 1H), 6.90 (d, J=8.0 Hz, 1H), 6.87 (d, J=8.0 Hz, 1H), 5.36 (d, J=8.0 Hz, 1H), 5.11 (d, J=12.0 Hz, 1H), 5.07 (d, J=12.5 Hz, 1H), 4.65 (dd, J=13.5, 5.5 Hz, 1H), 3.74 (s, 3H), 3.17 (dd, J=14.0, 5.5 Hz, 1H), 3.07 (dd, J=14.0, 6.0 Hz, 1H). 13CNMR (CDCl3, 125 MHz) δ 171.9, 155.7, 155.5, 144.1, 136.2, 130.8, 128.6, 128.42, 128.38, 128.2, 125.1, 111.1, 109.8, 67.2, 55.1, 52.6, 38.3. Mass spec.: 371.18 (MH)+.

reactant | carbonyl diimidazole | 3.07 mmol, 498 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | (R)-3-(4-amino-3-hydroxy-phenyl)-2-benzyloxycarbonylamino-propionic acid methyl ester | 3.07 mmol, 1.17 g | COC([C@@H](CC1=CC(=C(C=C1)N)O)NC(=O)OCC1=CC=CC=C1)=O | C18H20N2O5
reactant | diisopropylethylamine | 9.21 mmol, 1.60 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 85 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-Benzyloxycarbonylamino-3-(2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester | 51% | COC([C@@H](CC1=CC2=C(NC(O2)=O)C=C1)NC(=O)OCC1=CC=CC=C1)=O | C19H18N2O6
